US09216173B2
To a solution of tert-butyl [2-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}sulfamoyl)ethyl]carbamate (100 mg, 0.22 mmol) in dichloromethane (1.8 mL) was added trifluoroacetic acid (0.26 mL, 3.4 mmol). The reaction mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure to afford 2-amino-N-{6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}ethanesulfonamide, which was used without further purification. MS ESI calc'd. for C15H19N6O2S [M+H]+ 347. found 347.

reactant | tert-butyl [2-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}sulfamoyl)ethyl]carbamate | 0.22 mmol, 100 mg | C(#N)C1=C(C=C(C=N1)NS(=O)(=O)CCNC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C)C | C20H26N6O4S
reactant | trifluoroacetic acid | 3.4 mmol, 0.26 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.8 mL | ClCCl | CH2Cl2
product | 2-amino-N-{6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}ethanesulfonamide | NCCS(=O)(=O)NC=1C=NC(=C(C1)NC1=NC(=CC(=C1)C)C)C#N | C15H18N6O2S
